US07786165B2
[3-(2-methyl-1-naphthyl)phenyl]methanol
3-(2-Methyl-1-naphthyl)benzaldehyde (2.39 g, 9.70 mmol) was dissolved in a mixture of 1,2-dimethoxyethane (10 mL) and tetrahydrofuran (10 mL), and sodium borohydride (0.189 g, 5.00 mmol) was added under ice-cooling. The mixture was stirred at the same temperature for 3 hr. Dilute hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (5%-30% ethyl acetate/hexane) to give the title compound (1.96 g, yield 81%) as a colorless viscous oil.

reactant | 3-(2-Methyl-1-naphthyl)benzaldehyde | 9.70 mmol, 2.39 g | CC1=C(C2=CC=CC=C2C=C1)C=1C=C(C=O)C=CC1 | C18H14O
reactant | sodium borohydride | 5.00 mmol, 0.189 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | [3-(2-methyl-1-naphthyl)phenyl]methanol | 1.96 g, yield 81% | CC1=C(C2=CC=CC=C2C=C1)C=1C=C(C=CC1)CO | C18H16O
